US07491716B2
2-amino-5-methoxypyridine
Add 2-amino-5-bromopyridine (5.0 g, 29 mmol) to a freshly prepared solution of sodium methoxide (1.3 g, 58 mmol) in methanol (50 mL) and then add copper powder (1.8 g, 2.9 mmol). Heat and stir the mixture in a sealed tube at 160° C. for 3 days. Cool, filter through celite and concentrate under reduced pressure. Dissolve the residue in dichloromethane, then wash with water and saturated aqueous sodium chloride. Dry over magnesium sulfate, concentrate under reduced pressure, and subject the residue to silica gel chromatography, eluting with hexane/ethyl acetate; 3:1 to 0:1 to provide the title compound (1.5 g).

reactant | 2-amino-5-bromopyridine | 29 mmol, 5.0 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | sodium methoxide | 58 mmol, 1.3 g | C[O-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
catalyst | copper | 2.9 mmol, 1.8 g | [Cu] | Cu
product | 2-amino-5-methoxypyridine | 1.5 g | NC1=NC=C(C=C1)OC | C6H8N2O
